US03951952
3. Ethyl 2,2-dimethyl-2-hydroxyacetimidate hydrochloride
Four grams of 2-methyllactonitrile is added to 100 ml. of diethyl ether containing 10 ml. of ethanol followed by saturation of the resulting solution with hydrogen chloride gas. The reaction mixture is allowed to stir at room temperature for 18 hrs. and subsequently concentrated to an oil which on slurrying in ether gave 7.2 g. of the desired product.

reactant | 2-methyllactonitrile | Four grams | CC(C#N)(O)C | C4H7NO
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2,2-dimethyl-2-hydroxyacetimidate hydrochloride | Cl.CC(C(OCC)=N)(O)C | InChI=1S/C6H13NO2.ClH/c1-4-9-5(7)6(2,3)8;/h7-8H,4H2,1-3H3;1H
